US09353121B2
A mixture of benzaldehyde (145 μL, 1.44 mmol, 1.0 equ.), malononitrile (90.0 mg, 1.44 mmol, 1.0 equ.) and triethylamine (200 μL, 1.44 mmol, 1.0 equ.) in ethanol (5.0 mL) was stirred for 1 min, followed by the addition of 3-(3,4-dimethoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one (336 mg, 1.44 mmol, 1 equ.). The reaction mixture was concentrated after 24 h. The crude material was purified by column chromatography. (25% ethyl acetate in hexanes to 100% ethyl acetate), then re-crystallized from ethanol and washed with hexanes and ethanol to give 6-amino-3-(3,4-dimethoxyphenyl)-1-methyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (48.5 mg, 9%, 0.124 mmol) as a yellow solid. 1H-NMR (400 MHz) CDCl3: 7.29-7.28 (d, 2H), 7.23-7.21 (d, 2H), 7.00-6.98 (d, 1H), 6.88 (s, 1H), 6.72-6.70 (d, 2H), 4.84 (s, 1H), 4.75 (s, 2H), 3.82 (s, 6H), 3.60 (s, 3H), 13C-NMR (100 MHz) CDCl3: 157.6, 148.7, 148.6, 146.1, 145.7, 143.1, 128.9, 127.5, 127.4, 125.6, 119.3, 119.3, 110.9, 109.7, 94.7, 64.4, 55.7, 55.6, 38.3, 34.1; LC/MS-MS: 389.1→323.0 m/z; GS1 and GS2 at 30, DP=66, CE=31, CXP=22, tR=3.82 min.

reactant | benzaldehyde | 1.44 mmol, 145 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | malononitrile | 1.44 mmol, 90.0 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 1.44 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(3,4-dimethoxyphenyl)-1-methyl-1H-pyrazol-5(4H)-one | 1.44 mmol, 336 mg | COC=1C=C(C=CC1OC)C1=NN(C(C1)=O)C | C12H14N2O3
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | 6-amino-3-(3,4-dimethoxyphenyl)-1-methyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 0.124 mmol, 48.5 mg, 9% | NC1=C(C(C2=C(N(N=C2C2=CC(=C(C=C2)OC)OC)C)O1)C1=CC=CC=C1)C#N | C22H20N4O3
